US07435735B2
Step 5: Ethyl N-({1-[[(benzyloxy)carbonyl](ethyl)amino]cyclopropyl}methyl)-N-(tert-butoxycarbonyl)glycinate
To a solution of ethyl N-[(1-{[(benzyloxy)carbonyl]amino}cyclopropyl)methyl]-N-(tert-butoxycarbonyl)glycinate (1.6 g, 3.94 mmol) in DMF (23 mL) at 0° C. under an atmosphere of nitrogen was added NaH (60% dispersion in oil, 19 mg, 7.87 mmol). The mixture was stirred for 40 min until gas evolution ceased. To the reaction was added iodoethane (346 μL, 4.33 mmol), followed stirring at room temperature for 3 h. The reaction was quenched with water, and DMF was removed in vacuo. The resulting aqueous mixture was extracted twice each with EtOAc and CH2Cl2. The combined organics were dried over Na2SO4, filtered, and concentrated in vacuo to afford a pale yellow, sticky solid. The crude product was subjected to column chromatography eluting with a gradient of 0-50% EtOAc/hexanes. Collection and concentration of the appropriate fractions afforded the product as a colorless oil.

reactant | ethyl N-[(1-{[(benzyloxy)carbonyl]amino}cyclopropyl)methyl]-N-(tert-butoxycarbonyl)glycinate | 3.94 mmol, 1.6 g | C(C1=CC=CC=C1)OC(=O)NC1(CC1)CN(CC(=O)OCC)C(=O)OC(C)(C)C | C21H30N2O6
reactant | NaH | 7.87 mmol, 19 mg | [H-].[Na+]
reactant | iodoethane | 4.33 mmol, 346 μL | ICC | C2H5I
solvent | DMF | 23 mL | CN(C)C=O | C3H7NO
product | Ethyl N-({1-[[(benzyloxy)carbonyl](ethyl)amino]cyclopropyl}methyl)-N-(tert-butoxycarbonyl)glycinate | C(C1=CC=CC=C1)OC(=O)N(C1(CC1)CN(CC(=O)OCC)C(=O)OC(C)(C)C)CC | C23H34N2O6
